US06313122B1
Preparation of N-(4-Methoxybenzoyl)-2-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)benzeneamine
A pressure tube was charged with N1-(4-methoxybenzoyl)-1,2-benzenediamine (1.00 g, 4.13 mmol), 2,3-napthalenedicarboxylic anhydride (820 mg, 4.13 mmol), and tetrahydrofuran (16 mL). The resultant slurry was then placed in a bath heated to 110° C. for 16 h. After cooling to ambient temperature and standing for 3 h, the mixture was further cooled to −10° C. for 20 h. The resulting solid was collected by filtration and washed with cold ethyl acetate. The solid was then pulverized and dried under vacuum at 50° C. for 20 h to yield 1.45 g (83%) of the title compound.

reactant | N1-(4-methoxybenzoyl)-1,2-benzenediamine | 4.13 mmol, 1.00 g | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
reactant | 2,3-napthalenedicarboxylic anhydride | 4.13 mmol, 820 mg | C1=C2C(=CC3=CC=CC=C13)C(=O)OC2=O | C12H6O3
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
product | N-(4-Methoxybenzoyl)-2-(1,3-dihydro-1,3-dioxo-2H-benz[f]isoindol-2-yl)benzeneamine | 1.45 g, 83% | COC1=CC=C(C(=O)NC2=C(C=CC=C2)N2C(C=3C=C4C(=CC3C2=O)C=CC=C4)=O)C=C1 | C26H18N2O4
